US06887871B2
a) [3-(6-Methoxy-2-pyridinyl)-3-oxopropyl]carbamic acid 1,1-dimethylethyl ester
Butyl lithium (2.5M solution in hexanes, 1.4 ml) was added to a solution of 6-bromo-2-methoxypyridine (690 mg, 4.0 mmol) in tetrahydrofuran (4 ml) at −78° C. and stirred for 1 h. A solution of [3-(methoxymethylamino)-3-oxopropyl carbamic acid 1,1-dimethylethyl ester (344 mg, 1.42 mmol) in tetrahydrofuran (3 ml) was added and the mixture was warmed to 0° C. over 3 h. The mixture was quenched with saturated aqueous ammonium chloride and extracted with ethyl acetate (three times) The combined organic extracts were dried (sodium sulphate), evaporated and purified by chromatography on silica eluting with petrol-acetone to give the sub-title compound as a colourless oil (291 mg, 73%).

reactant | Butyl lithium | 2.5M, 1.4 ml | C(CCC)[Li]
reactant | 6-bromo-2-methoxypyridine | 4.0 mmol, 690 mg | BrC1=CC=CC(=N1)OC | C6H6BrNO
reactant | 3-(methoxymethylamino)-3-oxopropyl carbamic acid 1,1-dimethylethyl ester | 1.42 mmol, 344 mg | CC(C)(C)OC(NCCC(=O)NCOC)=O | C10H20N2O4
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | [3-(6-Methoxy-2-pyridinyl)-3-oxopropyl]carbamic acid 1,1-dimethylethyl ester | 291 mg, 73% | CC(C)(C)OC(NCCC(=O)C1=NC(=CC=C1)OC)=O | C14H20N2O4
